US05244907
4-Amino-5-chloro-2-(2-propenyloxy)benzoic acid
A suspension of 60% sodium hydride/oil dispersion (1.52 g, 38 mmol) in anhydrous dimethylformamide (50 mL) under nitrogen was treated in portions with 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester (6.05 g, 30 mmol), stirred at room temperature for 30 minutes, and treated with allyl bromide (4.60 g, 38 mmol). The mixture was stirred at 95°±5° C. for one hour, cooled to room temperature, and added to water (250 mL). The solid was removed by filtration and saved, and the filtrate was extracted with ether (2×100 mL). The concentrated ethereal extracts were combined with the filtered solid, taken up in 20% aqueous ethanol (100 mL), treated with potassium hydroxide (10 g), and refluxed for 45 minutes. The ethanol was removed in vacuo and the aqueous solution was extracted with ether (50 mL) and petroleum ethers (30°-60°, 50 mL), cooled (0° C.), and acidified to pH 4 with concentrated hydrochloric acid (17 mL). The suspension was filtered and the solid was air dried, dissolved in methylene chloride (150 mL) containing a little methanol, dried (Na2SO4), and concentrated in vacuo. Trituration from cold ether/petroleum ethers (30°-60°) and recrystallization from ethyl acetate/hexane (2 crops) afforded 4.25 g (62.2%) of a pale tan solid; mp 136°-137° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester | 30 mmol, 6.05 g | COC(C1=C(C=C(C(=C1)Cl)N)O)=O | C8H8ClNO3
reactant | allyl bromide | 38 mmol, 4.60 g | C(C=C)Br | C3H5Br
reactant | water | 250 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-(2-propenyloxy)benzoic acid | 4.25 g, 62.2% | NC1=CC(=C(C(=O)O)C=C1Cl)OCC=C | C10H10ClNO3
